US04051161
2,2',4,4'-Tetrahydroxybenzophenone/β-(3,4-epoxycyclohexyl)ethyltrimethoxysilane 1:2 Adduct
The above Adduct III was prepared by heating 2,2',4,4'-tetrahydroxybenzophenone (4.92 g, 0.02 mole) at 80° C with 9.84 g (0.04 mole) of β-(3,4-epoxycyclohexyl)ethyltrimethoxysilane and 0.1 g of tetramethylammonium chloride. A pale, reddish-brown, viscous oil was obtained.

reactant | 2,2',4,4'-tetrahydroxybenzophenone | 0.02 mole, 4.92 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | β-(3,4-epoxycyclohexyl)ethyltrimethoxysilane | 0.04 mole, 9.84 g | O1C2CC(CCC21)CC[Si](OC)(OC)OC | C11H22O4Si
catalyst | tetramethylammonium chloride | 0.1 g | [Cl-].C[N+](C)(C)C
product | 2,2',4,4'-Tetrahydroxybenzophenone β-(3,4-epoxycyclohexyl)ethyltrimethoxysilane | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O.O1C2CC(CCC21)CC[Si](OC)(OC)OC | InChI=1S/C13H10O5.C11H22O4Si/c14-7-1-3-9(11(16)5-7)13(18)10-4-2-8(15)6-12(10)17;1-12-16(13-2,14-3)7-6-9-4-5-10-11(8-9)15-10/h1-6,14-17H;9-11H,4-8H2,1-3H3
